US07919519B2
1-((4-(5-Benzylbenzo[d]oxazol-2-yl)phenyl)methyl)azetidine-3-carboxylic acid
Synthesized in a manner analogous to 1-((4-(5-benzylbenzo[d]oxazol-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylic acid, except employing 4-formylbenzoyl chloride. white solid [hS1P1 EC50=364 nM]. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.12 (d, J=8.0 Hz, 2H), 7.61-7.72 (m, 2H), 7.49 (d, J=8.0 Hz, 2H), 7.25-7.35 (m, 5H), 7.15-7.24 (m, 1H), 4.08 (s, 2H), 3.64 (s, 2H), 3.19-3.48 (m, 5H). MS (ESI) m/z: Calculated: 398.2; Observed: 399.2 (M++1).

reactant | 1-((4-(5-benzylbenzo[d]oxazol-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)O)F)C1 | C25H21FN2O3
reactant | 4-formylbenzoyl chloride | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
product | 1-((4-(5-Benzylbenzo[d]oxazol-2-yl)phenyl)methyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)C=1C=CC2=C(N=C(O2)C2=CC=C(C=C2)CN2CC(C2)C(=O)O)C1 | C25H22N2O3
